Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Trimethoprim / Sulfa (Sulfonamide Antibiotics) / Bactrim
 
Attending: ___
 
Chief Complaint:
decrease urine output and fever  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Dr. ___ is a ___ man with a history nephrolithiasis, BPH 
presenting from urgent care with decreased urine output and 
fever. Pt reports 3 days of decreased urine output associated 
with strong urge to urinate. Although he has BPH, this is not 
his baseline. Urine is cloudy, foul smelling but no hematuria. 
Also reports left flank pain and chills. Has history of 
nephrolithiasis, twice requiring lithotripsy.  
 At urgent care, Tm 102. WBC 20, UA positive nitrites, many 
bacteria, >50WBC, ___ epis. CT at urgent care showed 4.5 mm 
stone in the left posterior bladder near the ureterovesical 
junction. It was not entirely clear whether this is an 
obstructing stone at the ureterovesical junction, or whether 
this is a free stone in the bladder. No L hydronephrosis.  
 Pt received ceftriaxone IV and was sent to ED.  
 
 In the ED, initial vitals were:98.6 80 127/81 16 98% RA  
 - Exam notable for:  
 Gen: well appearing, nontoxic in NAD  
 Abd: no suprapubic tenderness, no CVAT  
 - Labs notable for: WBC 20.3 +grossly positive U/A, slight 
elevation in transaminases  
 - Imaging: Renal ultrasound:  
 8 x 5 x 7 mm calculus at the left UVJ. Although mobilization of 
the calculuswas not visualized under real-time ultrasound, a 
prominent left ureteral jet into the urinary bladder suggests 
that the calculus is not entirely occlusive  
 - Urology was consulted and did not believe this was an 
obstructing stone. They recommended treatment for UTI vs. 
prostatitis. They did not recommend operative management but 
recommended placement of ___ which was done in the ED. Foley 
should remain in place when patient is discharged.  
 - Nothing was given.  
 Upon arrival to the floor, patient reports that he is feeling 
much better but having leakage around the site of his catheter. 
He does endorse a headache which has been present all day. He 
also states that 2 months ago he had back pain that was 
attributed to MSK strain. Pain improved but then one month ago 
started having decreased urinary output that got worse over the 
past 3 days.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI  
 
Past Medical History:
 BPH  
 nephrolithiasis  
 GERD  
 
Social History:
___
Family History:
Mother ALZHEIMER'S DISEASE Developed dementia at age ~___  
 Cousin with FACTOR V ___  
 Father RHEUMATIC HEART DISEASE  
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:  
 VITAL SIGNS - 98.6 175/97 102 18 97% RA  
 GENERAL - well appearing, NAD, pleasant  
 HEENT - MM, good dentition  
 NECK - no LAD, supple  
 CARDIAC - RRR, no M/R/G  
 LUNGS - CTAB  
 ABDOMEN - soft, non-tender, no suprapubic tenderness  
 EXTREMITIES - no edema  
 NEUROLOGIC - grossly intact  
 SKIN - no rash  

PHYSICAL EXAM ON DISCHARGE:
Vitals: 97.9 PO 154 / 88 64 20 96 RA 
GENERAL - well appearing, NAD, pleasant  
 HEENT - MMN, good dentition  
 NECK - no LAD, supple  
 CARDIAC - RRR, no M/R/G  
 LUNGS - CTAB  
 ABDOMEN - soft, non-tender, no ttp
 BACK: No CVA tenderness  
 EXTREMITIES - no edema  
 UROGEN: Foley in place
 NEUROLOGIC - MAE w/ purpose 
 SKIN - no rash  
 
Pertinent Results:
================
LABS ON ADMISSION
=================

___ 11:51AM BLOOD WBC-20.3*# RBC-5.05 Hgb-15.3 Hct-45.3 
MCV-90 MCH-30.3 MCHC-33.8 RDW-13.4 RDWSD-43.8 Plt ___
___ 11:51AM BLOOD Neuts-88.0* Lymphs-3.7* Monos-7.1 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-17.88* AbsLymp-0.76* 
AbsMono-1.45* AbsEos-0.00* AbsBaso-0.06
___ 04:46PM BLOOD ___ PTT-31.1 ___
___ 11:51AM BLOOD Glucose-156* UreaN-16 Creat-1.2 Na-132* 
K-3.9 Cl-96 HCO3-25 AnGap-15
___ 11:51AM BLOOD ALT-64* AST-51* AlkPhos-100 TotBili-1.9*
___ 11:51AM BLOOD Albumin-4.0
___ 11:51AM BLOOD Lactate-1.6
___ 11:17AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:17AM URINE Blood-MOD Nitrite-POS Protein-30 
Glucose-NEG Ketone-15 Bilirub-NEG Urobiln-1 pH-6.5 Leuks-MOD
___ 11:17AM URINE ___ WBC->50 Bacteri-MANY Yeast-NONE 
___

================
MICRO
================

**FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------    16 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

========================
IMAGING/OTHER STUDIES
=======================

___ U.S.

IMPRESSION: 
 
1.  7 mm bladder stone, potentially indicating passage of a 
similar size stone
previously seen at the left UVJ.
2.  Other sub- 6 mm bilateral nonobstructing stones as on prior 
CT.  No
hydronephrosis.
3.  Prostatomegaly.

CTU (ABD/PEL) W/O CONTRAST Study Date of ___  

  1. Markedly enlarged prostate, similar to prior.  
 2. Mild diffuse bladder wall thickening, similar to ___, may be secondary to chronic bladder outlet obstruction, 
though superimposed cystitis cannot be excluded.  
 3. 4.5 mm stone in the left posterior bladder near the 
ureterovesical junction. Due to the patient's supine position, 
absence of intravenous contrast, absence of left 
hydroureteronephrosis, and absence of left perinephric 
inflammatory change, it is not entirely clear whether this is an 
obstructing stone at the ureterovesical junction, or whether 
this is a free stone in the bladder.  
 4. Small nonobstructing stones in both kidneys, new on the 
right and decreased in number on the left compared to ___.  
 5. Hepatic steatosis, new compared to ___.  
 6. Stable bilateral fat containing inguinal hernias.  
 7. Stable 2 mm right lower lobe pulmonary nodule dating back to 
___, consistent with benign etiology. No follow up 
needed.
  
 BLADDER US Study Date of ___ 

 8 x 5 x 7 mm calculus at the left UVJ. Although mobilization of 
the calculus was not visualized under real-time ultrasound, a 
prominent left ureteral jet into the urinary bladder suggests 
that the calculus is not entirely occlusive.  

================
LABS ON DISCHARGE
=================

___ 07:15AM BLOOD WBC-9.6 RBC-4.56* Hgb-13.7 Hct-41.6 
MCV-91 MCH-30.0 MCHC-32.9 RDW-13.7 RDWSD-46.0 Plt ___
___ 07:15AM BLOOD Glucose-113* UreaN-13 Creat-1.1 Na-137 
K-3.7 Cl-100 HCO3-25 AnGap-16
___ 07:15AM BLOOD Calcium-8.7 Phos-2.4* Mg-2.___ yo man PMH BPH and nephrolithiasis who was referred from 
urgent care w/ fevers and urinary retention concerning for 
complicated UTI. Urine culture +E. Coli. CTU showed markedly 
enlarged prostate, similar to prior as well as diffuse bladder 
wall thickening (cystitis vs hypertrophy iso chronic bladder 
outlet obstruction) as well as a 4.5 mm stone (unclear if 
obstruction). Bladder U/S showed 8 x 5 x 7 mm calculus at the 
left UVJ w/ prominent left ureteral jet into the urinary bladder 
suggesting that the calculus was not entirely occlusive. Urology 
was consulted who recommended continuing foley catheter until 
outpatient urology apt and 14 day course of abx therapy; patient 
was started on ceftriaxone, transitioned to ciprofloxacin upon 
discharge (Day 1: ___, anticipated end date: ___. Of note 
patient was not started on tamsulosin given poorly tolerated in 
past, would like more time to think about initiating finasteride 
therapy.

# Complicated UTI with non-obstructing urinary stone: Patient w/ 
hx BPH and nephrolithiasis who was referred from urgent care w/ 
fevers and urinary retention concerning for complicated UTI. 
Urine culture +E. Coli (sensitive to CTX and cipro). CTU showed 
markedly enlarged prostate, similar to prior as well as diffuse 
bladder wall thickening (cystitis vs hypertrophy iso chronic 
bladder outlet obstruction) as well as a 4.5 mm stone (unclear 
if obstruction). Bladder U/S showed 8 x 5 x 7 mm calculus at the 
left UVJ w/ prominent left ureteral jet into the urinary bladder 
suggesting that the calculus was not entirely occlusive. Urology 
was consulted who recommended continuing foley catheter until 
outpatient urology apt and 14 day course of abx therapy; patient 
was started on ceftriaxone, transitioned to ciprofloxacin upon 
discharge (Day 1: ___, anticipated end date: ___ w/ 
resolution of fevers. On morning of discharge, patient was c/o 
increasing L flank pain (though he had no CVA tenderness). 
Repeat Renal U/S was obtained which was reassuring 
(non-obstructing stones w/ no hydronephrosis) and the patient 
was felt to be safe for discharge. Of note patient was not 
started on tamsulosin given poorly tolerated in past, would like 
more time to think about initiating finasteride therapy. Also of 
note, patient had persistent leakage around foley tube which was 
improved with belladonna and opium suppositories, which he was 
discharged with. 
 
Chronic Issues  
 
GERD: cont home omeprazole 20mg qday
  
Preventative medicine: cont ASA 81 eod. 

Transitional Issues:
=================================
-Continue ciprofloxacin for complicated UTI (Day 1: ___, 
anticipated end date: ___
-Ensure outpatient follow up with urology (Dr. ___ in ___ 
weeks for in ___ weeks for void trial and further management 
-Continue discussion RE initiation of finasteride therapy for 
BPH
-Urine Culture +E.Coli, sensitivities pending upon discharge. 
Please follow up sensitivities and adjust antibiotic therapy 
accordingly

# CODE: presumed full 
# CONTACT: ___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO EVERY OTHER DAY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Belladonna & Opium (16.2/30mg) ___ID PRN foley 
leakage/bladder spasm 
RX *belladonna alkaloids-opium [Belladonna-Opium] 30 mg-16.2 mg 
1 suppository(s) rectally BID PRN Disp #*3 Suppository 
Refills:*0 
2.  Ciprofloxacin HCl 250 mg PO Q12H 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*24 Tablet Refills:*0 
3.  Aspirin 81 mg PO EVERY OTHER DAY  
4.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
=========================
Complicated UTI
Urinary Obstruction

Secondary Diagnosis:
=========================
-BPH
-nephrolithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure being involved in your care.

Why you came in:
-You came in because you were having fevers w/ decreased urine 
output

What we did while you were here:
-We diagnosed you with a urinary tract infection. Your imaging 
showed non-obstructing stones in your urinary tract. We had you 
evaluated by the urologist who did not feel that the stones 
needed urgent intervention. 
-We started you on antibiotic therapy for your UTI (initially w/ 
ceftriaxone, transitioned to ciprofloxacin on discharge).
-A foley was placed for urinary obstruction that should be 
maintained until outpatient urology follow up.

Your next steps:
-please continue taking your ciprofloxacin until ___ for a 14 
day course
-please speak with your doctor about the risks and benefits of 
finasteride therapy for your BPH

We wish you well,
Your ___ Care Team

 
Followup Instructions:
___